US07291631B2
Using General Procedure A: A solution (2-{[(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-pyridin-3-yl)-carbamic acid tert-butyl ester (0.220 g, 0.65 mmol), 2-bromomethyl-5-cyano-benzoic acid methyl ester (0.245 g, 0.97 mmol), and DIPEA (0.23 mL, 1.32 mmol) in CH3CN (7 mL) was stirred at room temperature for 21 hours. Purification of the crude material by column chromatography on silica gel (20:1:1 CH2Cl2-MeOH—NH4OH) provided 0.294 g (88%) of 2-{[(3-tert-Butoxycarbonylamino-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.58 (s, 9H), 2.20 (s, 3H), 3.76 (s, 2H), 3.86 (s, 3H), 4.05 (s, 2H), 4.09 (s, 2H), 7.09-7.16 (m, 2H), 7.44 (d, 1H, J=7.8 Hz), 7.55 (dd, 1H, J=8.1, 1.5 Hz), 7.89 (d, 1H, J=8.1 Hz), 8.04 (d, 1H, J=1.5 Hz), 8.09 (dd, 1H, J=1.5, 4.8 Hz), 8.51 (d, 1H, J=7.8 Hz), 8.63 (d, 1H, J=4.8 Hz).

reactant | (2-{[(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-pyridin-3-yl)-carbamic acid tert-butyl ester | 0.65 mmol, 0.220 g | C(C)(C)(C)OC(NC=1C(=NC=CC1)CNCC1=NC=CC=C1C)=O | C18H24N4O2
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | 0.97 mmol, 0.245 g | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | DIPEA | 1.32 mmol, 0.23 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 7 mL | CC#N | C2H3N
product | 2-{[(3-tert-Butoxycarbonylamino-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-5-cyano-benzoic acid methyl ester | 0.294 g, 88% | COC(C1=C(C=CC(=C1)C#N)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1NC(=O)OC(C)(C)C)=O | C28H31N5O4
